US04332724
Preparation of 1,2,3,4-Tetrahydro-4-oxo-1-naphthylurea
A mixture of 1,2,3,4-tetrahydro-1-naphthylurea (1.9 g), cobaltous acetate tetrahydrate (1.08 g), 30% hydrobromic acid in acetic acid (0.9 ml) and a 1:1 mixture of methyl ethyl ketone: acetic acid (30 ml) is shaken in a pressure vessel under 31 psig of oxygen for 7.5 hours. The vessel is then vented, the contents are mixed with an equal volume of water and extracted with chloroform (2×25 ml). The combined chloroform extracts are dried over anhydrous magnesium sulfate and evaporated to dryness in vacuo to afford 2.34 g solid. The solid is washed with cold methanol (30 ml) to afford 0.75 g of title compound, m.p. 210° C. to 214° C.

reactant | 1,2,3,4-tetrahydro-1-naphthylurea | 1.9 g | C1(CCCC2=CC=CC=C12)NC(=O)N | C11H14N2O
reactant | hydrobromic acid | Br | BrH
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
reactant | oxygen | O=O | O2
solvent | acetic acid | 0.9 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1,2,3,4-Tetrahydro-4-oxo-1-naphthylurea | 2.34 g | O=C1CCC(C2=CC=CC=C12)NC(=O)N | C11H12N2O2
